US05587385
To a solution of 1,4-dihydroxy-5,6,7,8-tetrahydronaphthalene (164 mg, 1 mmol) in dichloromethane (5 ml) is added titantetrachtoride (569 mg, 3 mmol). Then 1,1-dichlorodimethyl ether (173 mg, 1.5 mmol) is added dropwise under vigorous stirring and the reaction mixture stirred for another 3 h at room temperature. Finally hydrochloric acid 5% (1 ml) is added under ice-cooling. The organic phase is separated and the residual aqueous phase repeatedly extracted with ether. The combined organic phases are washed with saturated saline solution, dried over sodium sulfate and evaporated under vacuum. The residue is crystallized from benzene or alternatively submitted to flash chromatography on silica gel with benzene/ethylacetate 85:15 to afford pure 1,4-dihydroxy-5,6,7,8-tetrahydronaphthalene-2-carboxaldehyde in about 60% yield (108 mg).

reactant | 1,4-dihydroxy-5,6,7,8-tetrahydronaphthalene | 1 mmol, 164 mg | OC1=CC=C(C=2CCCCC12)O | C10H12O2
reactant | 1,1-dichlorodimethyl ether | 1.5 mmol, 173 mg | COC(Cl)Cl | C2H4Cl2O
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1,4-dihydroxy-5,6,7,8-tetrahydronaphthalene-2-carboxaldehyde | about 60% yield | OC1=C(C=C(C=2CCCCC12)O)C=O | C11H12O3
